US08802860B2
Preparation of 3-bromo-1-[2-(methoxymethyl)-4-nitrophenyl]pyridin-2(1H)-one
Under argon, 44.2 g (85% purity, 216 mmol) of 3-bromopyridone in 450 ml of N-methylpyrrolidone were introduced as initial charge, and 29.1 g of potassium tert-butanolate (259 mmol) were added in portions such that the temperature remained below 30° C. The mixture was stirred for 1 h and then 40 g (216 mmol) of 1-fluoro-2-(methoxymethyl)-4-nitrobenzene were added. The reaction mixture was stirred for 4 h at 80° C., cooled to RT and stirred into an ice/water mixture. The pH was adjusted to pH=4 with semi-concentrated hydrochloric acid, the mixture was extracted with ethyl acetate, and the organic phase was dried over sodium sulphate, filtered and evaporated to dryness on a rotary evaporator. The residue was dissolved in 2 l of dichloromethane, absorbed on five times the amount of silica gel and chromatographically purified on silica gel with ethyl acetate:dichloromethane 3:97 and 5:95. The product fractions were evaporated to dryness on a rotary evaporator and the residue was dried in vacuo. This gave 55 g (73%) of the desired product.

reactant | 3-bromopyridone | 216 mmol, 44.2 g | BrC=1C(NC=CC1)=O | C5H4BrNO
reactant | potassium tert-butanolate | 259 mmol, 29.1 g | C(C)(C)(C)[O-].[K+]
reactant | 1-fluoro-2-(methoxymethyl)-4-nitrobenzene | 216 mmol, 40 g | FC1=C(C=C(C=C1)[N+](=O)[O-])COC | C8H8FNO3
reactant | hydrochloric acid | Cl | ClH
solvent | N-methylpyrrolidone | 450 ml | CN1C(CCC1)=O | C5H9NO
product | 3-bromo-1-[2-(methoxymethyl)-4-nitrophenyl]pyridin-2(1H)-one | BrC=1C(N(C=CC1)C1=C(C=C(C=C1)[N+](=O)[O-])COC)=O | C13H11BrN2O4
